US08012998B2
a) 1-[(3R,4S)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethanone (IX-9)
A two necked flask was charged under argon with rhodium(acac)bis ethylene (31 mg, 0.05 eq.), (R)-BINAP (74 mg, 0.05 eq.) and 4-chloro-3-fluoro-phenylboronic acid (825 mg, 2.5 eq.). 30 mL of MeOH and 3 mL of H2O were added followed by 1-(1-benzyl-2,5-dihydro-1H-pyrrol-3-yl)-ethanone (480 mg). The reaction mixture was heated at 55° C. for 3 hours, cooled down to RT and concentrated under vacuo. Purification by flash chromatography (SiO2, EtOAc/Heptane 2/1) afforded 261 mg (33%) of the title product as a light yellow oil. ES-MS m/e: 332.1 (M+H+).

reactant | (R)-BINAP | 74 mg, 0.05 eq. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | 4-chloro-3-fluoro-phenylboronic acid | 825 mg, 2.5 eq. | ClC1=C(C=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | MeOH | 30 mL | CO | CH4O
reactant | 1-(1-benzyl-2,5-dihydro-1H-pyrrol-3-yl)-ethanone | 480 mg | C(C1=CC=CC=C1)N1CC(=CC1)C(C)=O | C13H15NO
solvent | H2O | 3 mL | O | H2O
product | 1-[(3R,4S)-1-Benzyl-4-(4-chloro-3-fluoro-phenyl)-pyrrolidin-3-yl]-ethanone | 261 mg, 33% | C(C1=CC=CC=C1)N1C[C@@H]([C@H](C1)C1=CC(=C(C=C1)Cl)F)C(C)=O | C19H19ClFNO
